US04960949
A 300-mL stainless steel autoclave equipped with a magnetically driven stirrer was charged under nitrogen with rhodium (14.55 mg of rhodium, 0.14 mmole charged as the 2-ethylhexanoate salt), α,α'-bis(diphenylphosphino)-o-xylene ligand (0.16 gm, 0.34 mmole), 1-octene (22.44 grams), and toluene (70 mL). This was pressured to 300 psig with a 1/1 mixture of hydrogen/carbon monoxide (synthesis gas) and heated to 105° C. The autoclave was repressured to 300 psig with the synthesis gas mixture whenever the pressure dropped to 250 Psig. The reaction was kept at 105° C. for 2 hours, during which time a total pressure drop of 460 psig was observed. The mixture was analyzed by gas/liquid chromatography and showed a 94.3 percent conversion of 1-octene. A 90.6 percent yield to isomeric nonanal products was obtained based on 1-octene charged. The ratio of linear/branched nonanal product was 3.47/1.

reactant | 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC
reactant | α,α'-bis(diphenylphosphino)-o-xylene | 0.34 mmole, 0.16 gm | C1(=CC=CC=C1)P(CC=1C(=CC=CC1)CP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C32H28P2
reactant | 1-octene | 22.44 grams | C=CCCCCCC | C8H16
reactant | hydrogen carbon monoxide | [H][H].[C]=O
catalyst | rhodium | [Rh] | Rh
catalyst | rhodium | 14.55 mg | [Rh] | Rh
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | nonanal | 90.6 percent yield | C(CCCCCCCC)=O | C9H18O
